US07326791B2
(a) methyl 4-(imidazol-1-ylmethyl)-3-methoxybenzoate
0.39 g (5.8 mmol) of imidazole are dissolved in 50 mL of tetrahydrofuran and, after the addition of 305.6 mg (6.4 mmol) of sodium hydride (50% in oil), stirred for 10 minutes at ambient temperature. Then 1.5 g (5.8 mmol) of methyl 4-(bromomethyl)-3-methoxybenzoate are added and the mixture is stirred for a further 16 hours. The solvent is distilled off, decomposed with water and extracted with ethyl acetate. The combined organic extracts are dried and concentrated by evaporation. Yield: 1.4 g (99%); C13H14N2O3 (246.268); mass spectrum: (M+H)+=247

reactant | imidazole | 5.8 mmol, 0.39 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 6.4 mmol, 305.6 mg | [H-].[Na+]
reactant | methyl 4-(bromomethyl)-3-methoxybenzoate | 5.8 mmol, 1.5 g | BrCC1=C(C=C(C(=O)OC)C=C1)OC | C10H11BrO3
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | methyl 4-(imidazol-1-ylmethyl)-3-methoxybenzoate | N1(C=NC=C1)CC1=C(C=C(C(=O)OC)C=C1)OC | C13H14N2O3
